US04031246
a. Ethyl 4-benzyloxyphenoxyacetate.
A mixture of 40 g. of 4-benzyloxyphenol, 45.8 g. of ethyl bromoacetate, 40.0 g. of potassium carbonate, 2 g. of potassium iodide and 400 ml. of acetone was heated at reflux for 24 hours. The reaction mixture was filtered and concentrated in vacuo, and the residue was recrystallized from an ether-petroleum ether mixture to give 50 g. of ethyl 4-benzyloxyphonoxyacetate, m.p. 72°-73° C.

reactant | 4-benzyloxyphenol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | Ethyl 4-benzyloxyphenoxyacetate | C(C1=CC=CC=C1)OC1=CC=C(OCC(=O)OCC)C=C1 | C17H18O4
